US06069156
Methyl 3-benzyloxycarbonylamino-4-(1-propynyl)benzoate (1.34 g) was prepared from 2-benzyloxycarbonylamino-4-methoxycarbonylphenyl trifluoromethanesulfonate (2.1 g) and tributyl(1-propynyl)stannane (2.49 g) in a similar manner to that of Preparation 1 (2).

reactant | 2-benzyloxycarbonylamino-4-methoxycarbonylphenyl trifluoromethanesulfonate | 2.1 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(=O)OC)NC(=O)OCC1=CC=CC=C1)(F)F | C17H14F3NO7S
reactant | tributyl(1-propynyl)stannane | 2.49 g | C(CCC)[Sn](C#CC)(CCCC)CCCC
product | Methyl 3-benzyloxycarbonylamino-4-(1-propynyl)benzoate | 1.34 g | C(C1=CC=CC=C1)OC(=O)NC=1C=C(C(=O)OC)C=CC1C#CC | C19H17NO4
